US03962187
2-(3,5-ditert.butyl-4-hydroxyphenoxy)ethyl methacrylate was prepared by adding dropwise a solution of 3.1 grams of methacryloyl chloride in 15 milliliters of tetrahydrofuran to a solution of 7 grams of 2-(3,5-ditert.butyl-4-hydroxyphenoxy)ethanol and 11 grams of triethylamine in 50 milliliters of tetrahydrofuran. The addition was completed in 5 minutes and the reaction mixture was stirred at room temperature for 4 hours. The reaction mixture was then poured into a solution of 20 milliliters of concentrated hydrochloric acid in 400 milliliters of water and the oil which precipitated was separated by extraction with petroleum ether. The extract was allowed to evaporate and the solid residue was recrystallized from petroleum ether to yield 4 grams of product which melted at 68° C. to 70° C.

reactant | methacryloyl chloride | 3.1 grams | C(C(=C)C)(=O)Cl | C4H5ClO
reactant | 2-(3,5-ditert.butyl-4-hydroxyphenoxy)ethanol | 7 grams | C(C)(C)(C)C=1C=C(OCCO)C=C(C1O)C(C)(C)C | C16H26O3
reactant | triethylamine | 11 grams | C(C)N(CC)CC | C6H15N
reactant | hydrochloric acid | 20 milliliters | Cl | ClH
solvent | tetrahydrofuran | 15 milliliters | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 milliliters | O1CCCC1 | C4H8O
solvent | water | 400 milliliters | O | H2O
product | 2-(3,5-ditert.butyl-4-hydroxyphenoxy)ethyl methacrylate | C(C(=C)C)(=O)OCCOC1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C | C20H30O4
